US07384934B2
Combine 8-fluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylaminehydrochloride (0.201 g, 0.606 mmol), (S)-2-(3-methoxy-propyl)-piperazine (0.192 g, 1.21 mmol), and diisopropylethyl amine (0.106 mL, 0.606 mmol) in a mixture of toluene (3 mL) and dimethylsulfoxide (1 mL) and stir at 110° C. for 24 hours. Evaporate the mixture then purify by flash chromatography, eluting with a step gradient starting with dichloromethane going to 7% 2N ammonia-methanol in dichloromethane gives 8-fluoro-11-[3-(3-methoxy-propyl)-piperazin-1-yl]-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepine (0.151 g, 0.346 mmol, 57%) as a yellow oil. Mass spectrum (APCI): m/z=437.2 (M+1).

reactant | 8-fluoro-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepin-11-ylaminehydrochloride | 0.606 mmol, 0.201 g | Cl.FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(F)(F)F)N)C1
reactant | (S)-2-(3-methoxy-propyl)-piperazine | 1.21 mmol, 0.192 g | COCCC[C@@H]1NCCNC1 | C8H18N2O
reactant | diisopropylethyl amine | 0.606 mmol, 0.106 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
product | 8-fluoro-11-[3-(3-methoxy-propyl)-piperazin-1-yl]-2-trifluoromethyl-5H-dibenzo[b,e][1,4]diazepine | 0.346 mmol, 0.151 g, 57% | FC=1C=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(F)(F)F)N3CC(NCC3)CCCOC)C1 | C22H24F4N4O
